US06949648B2
2-[[1-(2-Pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid
A solution of 1-(2-pyridinyl)-1H-pyrazol-5-ylamine (6.02 g, 37.6 mmol), 2-iodobenzoic acid (9.32 g, 37.6 mmol), copper acetate (II) (0.683 g, 3.76 mmol) and potassium carbonate (5.72 g, 41.4 mmol) in N,N-dimethylformamide (20 mL) was heated under reflux for 1 hour under an argon atmosphere. The solution was allowed to cool to room temperature, and poured into water. The solution was made weakly acidic by the addition of acetic acid, and the resulting crude crystals were collected by filtration. The crystals were washed with water and air dried to give the title compound (9.45 g, 90% yield).

reactant | 1-(2-pyridinyl)-1H-pyrazol-5-ylamine | 37.6 mmol, 6.02 g | N1=C(C=CC=C1)N1N=CC=C1N | C8H8N4
reactant | 2-iodobenzoic acid | 37.6 mmol, 9.32 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | potassium carbonate | 41.4 mmol, 5.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | copper acetate | 3.76 mmol, 0.683 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[[1-(2-Pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 9.45 g, 90% yield | N1=C(C=CC=C1)N1N=CC=C1NC1=C(C(=O)O)C=CC=C1 | C15H12N4O2
